US07842688B2
c) tert-Butyl 4-(4-carboxyphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
A solution of 1,200 g of tert-butyl 4-(4-methoxycarbonylphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate in 20 ml of dioxane is admixed with 10 ml of 2N NaOH. The reaction mixture is heated to 80° C. over 1 hour and subsequently cooled to room temperature. The phases are separated and the aqueous phase is adjusted to pH 2 with 2N HCl (9.5 ml) and extracted with tert-butyl methyl ether (2×40 ml). The organic phases are combined, washed with 50 ml of water, dried over sodium sulphate, filtered and concentrated by evaporation. The residue is recrystallized from 1:1 ethyl acetate/heptane (20 ml). The title compound is obtained as a colourless solid. Rt=4.48.

reactant | tert-butyl 4-(4-methoxycarbonylphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | 1,200 g | COC(=O)C1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C31H40N2O8
reactant | NaOH | 2N, 10 ml | [OH-].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | tert-Butyl 4-(4-carboxyphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | C(=O)(O)C1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C30H38N2O8
